US06642228B1
3-(1-(3-Piperidylpropyl)-4-piperidyl)-2-aza-1-oxaindene Hydrochloride
Using 4-(3-benzisoxazolyl)piperidine (191 mg, 0.80 mmol) and 1-(3-chloropropyl)piperidine hydrochloride (222 mg, 1.1 mmol) instead of 4-(3-indolyl)piperidine and 1-(3-chloropropyl)-3-(4-methoxyphenyl)piperidine hydrochloride respectively, reaction and concentration were carried out in the same procedure as Example 2. The resulting crude product was purified by column chromatography on a silica gel (silica gel NH-DM 1020 produced by Fuji Silysia Chemical Ltd., eluent; hexane:ethyl acetate=3:1) to afford a free form (236 mg) of the title compound as a pale yellow viscous oil. After adding hydrochloric acid/methanol to a solution of the free form in methanol, the mixture was concentrated and was then recrystallized from methanol/ether to afford the title compound (277 mg, yield: 86%) as white crystals.

reactant | 4-(3-benzisoxazolyl)piperidine | 0.80 mmol, 191 mg | O1N=C(C2=C1C=CC=C2)C2CCNCC2 | C12H14N2O
reactant | 1-(3-chloropropyl)piperidine hydrochloride | 1.1 mmol, 222 mg | Cl.ClCCCN1CCCCC1
reactant | 1-(3-chloropropyl)-3-(4-methoxyphenyl)piperidine hydrochloride | Cl.ClCCCN1CC(CCC1)C1=CC=C(C=C1)OC
product | 3-(1-(3-Piperidylpropyl)-4-piperidyl)-2-aza-1-oxaindene Hydrochloride | 236 mg | Cl.N1CC(CCC1)CCCN1CCC(CC1)C1=NOC2=CC=CC=C12 | InChI=1S/C20H29N3O.ClH/c1-2-8-19-18(7-1)20(22-24-19)17-9-13-23(14-10-17)12-4-6-16-5-3-11-21-15-16;/h1-2,7-8,16-17,21H,3-6,9-15H2;1H
